US06927228B2
(d) tert-Butyl [4′-(2,4-dioxothiazolidin-5-yl-methyl)biphenyl-3-ylmethyl]ethylcarbamate
In a manner similar to that of Example 1(g), starting with 500 mg (1.15 mmol) of tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]ethylcarbamate in 5 ml of ethyl acetate, 100 mg (20%) of the desired product with a melting point of 103° C. are obtained.

reactant | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]ethylcarbamate | 1.15 mmol, 500 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)CC | C24H26N2O4S
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl [4′-(2,4-dioxothiazolidin-5-yl-methyl)biphenyl-3-ylmethyl]ethylcarbamate | 100 mg, 20% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)CC | C24H28N2O4S
